US05380724
1-(1-Adamantyl)-4-(2,6-diamino-4-pyrimidinyl)-piperazine
A mixture of 2,6-diamino-4-chloropyrimidine (0.43 g, 3.0 mmol) and 1-(1-adamantyl)-piperazine (0.66 g, 3.0 mmol) in ethanol (30 ml) was heated in a sealed tube at 170° C. for 3 hours. After cooling the solvent was removed, the solid residue was dissolved in water (45 ml) and acidified to pH=3 with conc. HCl. The obtained mixture was heated to 50° C. the insolubles were filtered off and the clear solution was rendered alkaline with 10N NaOH under stirring and cooling. The precipitated crystals were collected, washed with water until neutral and dried. In this manner 0.79 g of the title compound was obtained in the form of its monohydrate, yield: 76.6%, mp. 265°-268° C.

reactant | 2,6-diamino-4-chloropyrimidine | 3.0 mmol, 0.43 g | NC1=NC(=CC(=N1)Cl)N | C4H5ClN4
reactant | 1-(1-adamantyl)-piperazine | 3.0 mmol, 0.66 g | C12(CC3CC(CC(C1)C3)C2)N2CCNCC2 | C14H24N2
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 1-(1-Adamantyl)-4-(2,6-diamino-4-pyrimidinyl)-piperazine | 0.79 g, yield: 76.6% | C12(CC3CC(CC(C1)C3)C2)N2CCN(CC2)C2=NC(=NC(=C2)N)N | C18H28N6
